US07294622B2
a. Dimethyl [2-(4-fluoro-2-nitrophenyl)-1-phenylethyl]malonate (8a)
A solution of benzylidene malonate (14.2 g) in DMF (280 mL) was treated with sodium hydride (2.57 g, 95%). A solution of 4-fluoro-2-nitrotoluene in DMF (10 mL) was added over 1 H, and the reaction mixture was stirred at RT overnight and then quenched by the addition of glacial acetic acid (175 mL) at 0° C. A total of 500 mL of 70:30 water-methanol was added with stirring, and the organics were extracted with ethyl acetate. The organic extracts were combined and washed with saturated aqueous potassium carbonate solution (2×) and brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a dark brown oil. Flash chromatography on silica gel (75:25 hexane-ethyl acetate, then 50:50 hexane-ethyl acetate) provided 7.0 g (30%) of the title compound as a red-brown solid. 1H NMR (300 MHz, CDCl3) δ 3.72 (d, 2H), 3.73 (d, 1H), 4.32 (m, 1H), 7.09-7.29 (m, 7H), 7.71 (m, 1H). MS APCI, m/z=398 (M+Na). LC/MS: 2.66 min.

reactant | benzylidene malonate | 14.2 g | C1(CC(=O)OC(C2=CC=CC=C2)O1)=O | C10H8O4
reactant | sodium hydride | 2.57 g | [H-].[Na+]
reactant | 4-fluoro-2-nitrotoluene | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | DMF | 280 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Dimethyl [2-(4-fluoro-2-nitrophenyl)-1-phenylethyl]malonate | 7.0 g, 30% | FC1=CC(=C(C=C1)CC(C1=CC=CC=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C19H18FNO6
